US07378418B2
Preparation of 7,8-Bis(4-chlorophenyl)-2-(2-hydroxycyclohexyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (40 mg, 0.11 mmol), prepared as described in Example 1, cyclohexene oxide (12 mg, 0.12 mmol) and K2CO3 (35 mg, 0.25 mmol) in DMF (1 ml), was heated at 100° C. for 3 hours. After this time the solution was cool to RT and diluted with ethyl acetate. The resultant solution was washed with water. The organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified by preparative HPLC to give the title compound, 7,8-bis(4-chlorophenyl)-2-(2-hydroxycyclohexyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-(24.1 mg, 48%) as yellow solid. MS M+H=455; 1H NMR (CDCl3) δ 8.17 (1H), 7.33 (6H), 7.08 (2H), 4.26 (1H), 3.98 (1H), 2.17 (1H), 1.99 (1H), 1.82 (3H), 1.50-1.30 (3H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.11 mmol, 40 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | cyclohexene oxide | 0.12 mmol, 12 mg | C12C(CCCC1)O2 | C6H10O
reactant | K2CO3 | 0.25 mmol, 35 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7,8-Bis(4-chlorophenyl)-2-(2-hydroxycyclohexyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C2C(CCCC2)O)=O)C2=CC=C(C=C2)Cl | C23H20Cl2N4O2
